US08022062B2
Add a solution of n-propylamine (6.3 mg, 0.11 mmol) in anhydrous THF (0.5 mL), HOBT (14.5 mg, 0.11 mmol), a solution of diisopropylamine (27.7 mg, 0.21 mmol) in anhydrous THF (0.5 mL) and EDC (20.5 mg, 6.11 mmol) to a mixture of 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (48.1 mg, 0.11 mmol) in anhydrous THF (1.4 mL) at room temperature. Stir overnight at room temperature and partition the mixture between EtOAc (50 mL) and saturated aqueous NaHCO3 (20 mL). Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel (12 g RediSep® column) eluting with hexane/EtOAc (19:1 to 1:1 gradient over 30 min; 35 mL/min) to afford 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-propylcarbamoyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a thick colorless oil (37.1 mg, 71%). MS (ES+) m/z: 490.2 (M+H)+.

reactant | n-propylamine | 0.11 mmol, 6.3 mg | C(CC)N | C3H9N
reactant | HOBT | 0.11 mmol, 14.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylamine | 0.21 mmol, 27.7 mg | C(C)(C)NC(C)C | C6H15N
reactant | EDC | 6.11 mmol, 20.5 mg
reactant | 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.11 mmol, 48.1 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC(=C(C=C2)C(=O)O)F | C23H26ClFN2O4
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-propylcarbamoyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 37.1 mg, 71% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC(=C(C=C2)C(NCCC)=O)F | C26H33ClFN3O3
